US07169761B2
Pyrrolidine (1.9 ml) and magnesium sulfate (2.74 g) were added to a solution of 1-[4-(benzyloxy)-3-bromophenyl]acetone (3.65 g) in diethyl ether (30 ml) and the mixture was stirred at room temperature for 12 hours. After filtration, the solvent was evaporated under reduced pressure. The resulting residue was dried under reduced pressure and dissolved in ethanol (30 ml). 2H-cyclohepta[b]furan-2-on (0.5 g) was added to the solution and the mixture was refluxed with heating for eight hours. The reaction mixture was concentrated. The resulting residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to obtain 2-[4-(benzyloxy)-3-bromobenzyl]azulene (0.84 g).

reactant | Pyrrolidine | 1.9 ml | N1CCCC1 | C4H9N
reactant | magnesium sulfate | 2.74 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 1-[4-(benzyloxy)-3-bromophenyl]acetone | 3.65 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)C)Br | C16H15BrO2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-[4-(benzyloxy)-3-bromobenzyl]azulene | 0.84 g | C(C1=CC=CC=C1)OC1=C(C=C(CC2=CC3=CC=CC=CC3=C2)C=C1)Br | C24H19BrO
